data/pmechdb/original/mc_train_fold0/raw/train.txt
CC[Si](CC)([CH:10]=[CH:11]C[Si](C)(C)C)OC(C[CH:20]=[O+:21][Si](C)(C)C)C1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-]>>CC[Si]1([CH:10]([CH:20](CC(O1)C2=CC=CC=C2)[O:21][Si](C)(C)C)[CH+:11]C[Si](C)(C)C)CC.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.C(C[O-:10])C=O>>[H:20][O:10]CCC=O.CC(=O)[O-:21] 10=20;20,21=21
CC[NH:10]CC.CC(=O)O[C:20](=[O:21])C>>CC[NH+:10](CC)[C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC(CCCCCCC(=O)C)[OH:10]>>[H:20][OH+:10]C(CCCCCCC(=O)C)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C=C(CC1=CC=CC=C1)O.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C1=CC=C(C=C1)CC(=CC(=O)[O-:21])O 10=20;20,21=21
[B-]([O+]=C1C([CH:20]([O:10]C2=C1C(=CC(=C2)O)O)[NH+:21](C)C)C3=CC=C(C=C3)O)(F)(F)F.CCOCC.O=P(Cl)(Cl)Cl.[Cl-]>>[B-]([O+]=C1C([CH:20]=[O+:10]C2=C1C(=CC(=C2)O)O)C3=CC=C(C=C3)O)(F)(F)F.C[NH:21]C.CCOCC.O=P(Cl)(Cl)Cl.[Cl-] 10=20;20,21=21
[H:20][O:21]C12CCC3(C1CCC2C3)OS(=O)(=O)C.[H:10][Na:11]>>CS(=O)(=O)OC12CCC3(C1CCC3C2)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
C1=CC=C(C=C1)CCC[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>C1=CC=C(C=C1)CCC[C:20]#[O+:10].[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
[H:20][C:21](C1=CC=C(C=C1)C)([C:22]2=[N+:23](C(=C(S2)CCO)C)CC)O.CC[N:10](CC)CC.CC(=O)C=C.[Br-]>>[H:20][N+:10](CC)(CC)CC.CC[N:23]1C(=C(S[C:22]1=[C:21](C2=CC=C(C=C2)C)O)CCO)C.CC(=O)C=C.[Br-] 10=20;22,23=23;20,21=21,22
[Li:11][CH:10]1C=CC=C1.CC1=C(C(=CC=C1)C)OCCCCC[CH2:20][Br:21]>>[Li+:11].CC1=C(C(=CC=C1)C)OCCCCC[CH2:20][CH:10]2C=CC=C2.[Br-:21] 10,11=10,20;20,21=21
CC(CC[CH:20]=[C:21](C)[CH:22]=[O:23])[CH:10]=[CH:11][N:12](C)C1=CC=CC=C1.C[NH2+]C1=CC=CC=C1.O>>CC1CC[CH:20]([CH:10]1[CH:11]=[N+:12](C)C2=CC=CC=C2)[C:21](=[CH:22][O-:23])C.C[NH2+]C1=CC=CC=C1.O 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C1=CC=C(C=C1)OCCCCCCCCCCCC.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O)C)C>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CCCCCCCCCCCCOC1=CC=C(C=C1)C(=O)[O-:21].CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O)C)C 10=20;20,21=21
CN[C:20]([OH:21])([O-:10])OC>>CN[C:20](=[O:10])OC.[OH-:21] 10=20;20,21=21
CO[C:22](=[O:23])[CH:21]=[CH2:20].[C-:10]#N>>CO[C:22](=[CH:21][CH2:20][C:10]#N)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CBr)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)CBr 10=20;20,21=21,22;22,23=23,24
CCO[C:20](CCC(=O)N(C)C)([C:21]#N)[O-:10]>>CCO[C:20](=[O:10])CCC(=O)N(C)C.[C-:21]#N 10=20;20,21=21
[H:20][C:21]1(C=CC=C([CH+:22]1)C(F)(F)F)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)C(F)(F)F)[N+](=O)[O-] 10=20;20,21=21,22
CC[N:12]1C(=C(S[C:11]1=[C:10](C2=CC=C(C=C2)F)O)CCO)C.CC(C)[C:22](=[O:23])[C:21](=[CH:20]C1=CC=CC=C1)C(=O)OC.CCO.C(CO)[NH+](CCO)CCO.[Br-]>>CC[N+:12]1=[C:11](SC(=C1C)CCO)[C:10](C2=CC=C(C=C2)F)([CH:20](C3=CC=CC=C3)[C:21](=[C:22](C(C)C)[O-:23])C(=O)OC)O.CCO.C(CO)[NH+](CCO)CCO.[Br-] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][Cl:21].CCC(C)C(C(=[O:10])O)[NH3+].CO.[Cl-]>>[H:20][O+:10]=C(C(C(C)CC)[NH3+])O.[Cl-:21].CO.[Cl-] 10=20;20,21=21
[B-:10]([O+:11](CCC)COC)(F)(F)F>>[B:10](F)(F)F.CCC[O:11]COC 10,11=11
[H:20][OH2+:21].C1=CN=CC=C1CC[O-:10]>>[H:20][O:10]CCC1=CC=NC=C1.[OH2:21] 10=20;20,21=21
[H:20][CH2:21][CH+:22]C.[OH2:10]>>[H:20][OH2+:10].C[CH:22]=[CH2:21] 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CC(=[O:10])C=CC(C1C(=O)OC2C1(OCC2O)O)O>>[H:20][O+:10]=C(C)C=CC(C1C(=O)OC2C1(OCC2O)O)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](C(=O)OC)C(=O)OC.C(=O)([O-:10])[O-].CC(C)(C=O)Cl>>[H:20][O:10]C(=O)[O-].COC(=O)[CH-:21]C(=O)OC.CC(C)(C=O)Cl 10=20;20,21=21
[H:20][CH:21]1CCC([C:22]1=[O+:23][Li-][N:10](C(C)C)C(C)C)C(C)CCCO[Si](C)(C)C(C)(C)C>>[H:20][N+:10]([Li-][O:23][C:22]1=[CH:21]CCC1C(C)CCCO[Si](C)(C)C(C)(C)C)(C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
C[N:10](C)[S:20](=[O:21])C>>C[N+:10](=[S:20](C)[O-:21])C 10=20;20,21=21
[H:20][O+:21](C(C1=C(C(=C(C=C1)OC)C(C)C)OC)C2=C(CCCC2(C)C)C)I3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)OC(=O)C.C1=CC=[N:10]C=C1.CC(=O)[O-]>>[H:20][N+:10]1=CC=CC=C1.CC1=C(C(CCC1)(C)C)C(C2=C(C(=C(C=C2)OC)C(C)C)OC)[O:21]I3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)OC(=O)C.CC(=O)[O-] 10=20;20,21=21
C1=CC=NC(=C1)C[S+:20](C2=NC3=C(N2)C=CC=C3)[O-:10]>>C1=CC=NC(=C1)C[S:20](=[O:10])C2=NC3=C(N2)C=CC=C3 10=20,
[H:20][OH:21].CC(C)(C[N+](=O)[O-])[O-:10]>>[H:20][O:10]C(C)(C)C[N+](=O)[O-].[OH-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)N(C)C.[OH2:10]>>[H:20][OH2+:10].CC(N(C)C)[OH:21] 10=20;20,21=21
CC(=O)[O-:10].CO[P+:20](N=[N+]=[N-])(O)OC>>CC(=O)[O:10][P:20](N=[N+]=[N-])(O)(OC)OC 10=20,
[H:20][O+:21]=C(NC(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)[C-:10]([N+](=O)[O-])[N+](=O)[O-])O.OS(=O)(=O)O>>[H:20][C:10](C(=O)NC(=C([N+](=O)[O-])[N+](=O)[O-])NC(=[O:21])O)([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)O 10=20;20,21=21
CC1=CC[C:20]([O:10]1)(C2=CC=CC=C2)[OH2+:21].O.OS(=O)(=O)[O-]>>CC1=CC[C:20](=[O+:10]1)C2=CC=CC=C2.[OH2:21].O.OS(=O)(=O)[O-] 10=20;20,21=21
